US08304419B2
To a solution of 4-chloro-N-({4-chloro-3-[(3-chloro-5-cyclopropylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (94 mg, 0.161 mmol) in DCM (6 ml) was added TFA (3.0 ml) and the reaction mixture was stirred at rt for 1 hour. The solvent was removed and the crude material was purified via reverse phase HPLC to give 4-chloro-N-({4-chloro-3-[(3-chloro-5-cyclopropylphenyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide (45 mg, 0.099 mmol, 62% yield). 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.70 (s, 1H), 7.25-7.39 (m, 2H), 6.76 (s, 1H), 6.56 (s, 1H), 6.53 (s, 1H), 4.63 (s, 2H), 1.67-2.00 (m, 1H), 0.96 (dd, 2H), 0.63 (dd, 2H). LC-MS (ES+) m/z 454.02, [M+H].

reactant | 4-chloro-N-({4-chloro-3-[(3-chloro-5-cyclopropylphenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.161 mmol, 94 mg | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C1CC1)Cl)F)COCC[Si](C)(C)C | C26H29Cl3FN3O3Si
reactant | TFA | 3.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 6 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-N-({4-chloro-3-[(3-chloro-5-cyclopropylphenyl)oxy]-2-fluorophenyl}methyl)-1H-imidazole-5-carboxamide | 0.099 mmol, 45 mg, 62% yield | ClC=1N=CNC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C1CC1)Cl)F | C20H15Cl3FN3O2
